US07105548B2
3-Cyanobenzaldehyde (3.0 g, 22.9 mmol), nitromethane (4.2 g, 68.7 mmol) and diethylamine (167 mg, 2.29 mmol) were stirred for 48 h in THF at 55° C. in the presence of 4 Å molecular sieves. The resulting reaction mixture was filtered through celite and the resulting solution was concentrated in vacuo, then partitioned between EtOAc (20 mL) and H2O (100 mL). The EtOAc layer was washed with H2O (2×75 mL) and brine (1×50 mL), then dried (MgSO4), filtered, and concentrated in vacuo. The resulting residue was filtered through silica gel, eluting with hexanes:EtOAc (2:1) to obtain 3-(1-hydroxy-2-nitroethyl)benzonitrile as a pale yellow solid.

reactant | 3-Cyanobenzaldehyde | 22.9 mmol, 3.0 g | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
reactant | nitromethane | 68.7 mmol, 4.2 g | [N+](=O)([O-])C | CH3NO2
reactant | diethylamine | 2.29 mmol, 167 mg | C(C)NCC | C4H11N
solvent | THF | C1CCOC1 | C4H8O
product | 3-(1-hydroxy-2-nitroethyl)benzonitrile | OC(C[N+](=O)[O-])C=1C=C(C#N)C=CC1 | C9H8N2O3
